US05405861
In ethanol (3 ml) was dissolved (2S)-2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone (95 mg), to which was added pyridinium p-toluenesulfonate (21 mg), followed by stirring for one hour at 55° C. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate (20 ml), which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of a silica gel chromatography (eluent, hexane:ethyl acetate=5:1) to give (2S)-2',4'-difluoro-2-hydroxypropiophenone (40 mg) as a pale yellow oily product.

reactant | (2S)-2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone | 95 mg | FC1=C(C=CC(=C1)F)C([C@H](C)OC1OCCCC1)=O | C14H16F2O3
reactant | pyridinium p-toluenesulfonate | 21 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (2S)-2',4'-difluoro-2-hydroxypropiophenone | 40 mg | FC1=C(C=CC(=C1)F)C([C@H](C)O)=O | C9H8F2O2
